US07563815B2
To a 0° C. solution of ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)amino]ethyl}benzoate (0.55 g, 1.66 mmol) and DIEA (0.35 mL, 1.99 mmol) in dry dichloromethane (15 mL) was slowly added thiophosgene (0.13 mL, 1.66 mmol). After stirring at 0° C. for 10 min and then at room temperature for 45 min, a solution of N-methylbenzene-1,2-diamine (0.22 g, 1.83 mmol) and DIEA (0.35 mL, 1.99 mmol) in dry dichloromethane (5 mL) was added. The reaction mixture was stirred for 1 h at ambient temperature and then diluted with dichloromethane (20 mL) and poured into aqueous HCl (1N, 20 mL). The organic layer was separated and washed with aqueous HCl (1N, 20 mL), saturated aqueous NaHCO3 (20 mL), brine (20 mL), dried over Na2SO4 and then concentrated to dryness. The residue was dissolved in dichloromethane (20 mL) and mercury (II) trifluoroacetate (0.80 g, 1.86 mmol) was added. The reaction mixture was stirred for 30 min at room temperature and then filtered through Celite. The organic solution was washed with saturated NaHCO3 (20 mL), dried over Na2SO4 and concentrated. Chromatography (15% EtOAc in Hexane) afforded ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)(1-methyl-1H-benzimidazol-2-yl)amino]ethyl}benzoate. HPLC/MS: m/z=462.4 (M+1), Rt=3.46 min. 1H NMR (500 MHz, CDCl3): □ 8.03 (2H, d, J=8.2 Hz), 7.78 (1H, m), 7.52 (2H, d, J=8.2 Hz), 7.28 (3H, m), 4.80 (1H, q, J=6.5 Hz), 4.39 (2H, q, J=7.5 Hz), 3.72 (3H, s), 2.86 (1H, m), 2.14 (1H, m), 1.94 (1H, m), 1.72-1.64 (2H, m), 1.48 (1H, m), 1.41 (3H, t, J=7.5 Hz), 1.17 (3H, d, J=6.5 Hz), 0.95-0.75 (4H, m), 0.73 (9H, s).

reactant | ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)amino]ethyl}benzoate | 1.66 mmol, 0.55 g | C(C)(C)(C)[C@@H]1CC[C@H](CC1)NC(C)C1=CC=C(C(=O)OCC)C=C1 | C21H33NO2
reactant | DIEA | 1.99 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophosgene | 1.66 mmol, 0.13 mL | C(=S)(Cl)Cl | CCl2S
reactant | N-methylbenzene-1,2-diamine | 1.83 mmol, 0.22 g | CNC=1C(=CC=CC1)N | C7H10N2
reactant | DIEA | 1.99 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | mercury (II) trifluoroacetate | 1.86 mmol, 0.80 g | FC(C(=O)[O-])(F)F.[Hg+2].FC(C(=O)[O-])(F)F
product | ethyl 4-{1-[(trans-4-tert-butylcyclohexyl)(1-methyl-1H-benzimidazol-2-yl)amino]ethyl}benzoate | C(C)(C)(C)[C@@H]1CC[C@H](CC1)N(C(C)C1=CC=C(C(=O)OCC)C=C1)C1=NC2=C(N1C)C=CC=C2 | C29H39N3O2
